US07179823B1
Sodium hydride (60%, oily, 60.0 mg) was added to a solution of ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate (318 mg) and 3-chloromethyl-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine (472 mg) in N,N-dimethylformamide (10 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-[3-ethoxy-1-[5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-1H-pyrazol-4-yl]propionate (616 mg, yield: 84%) as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | Sodium hydride | 60.0 mg | [H-].[Na+]
reactant | ethyl 3-(3-ethoxy-1H-pyrazol-4-yl)propionate | 318 mg | C(C)OC1=NNC=C1CCC(=O)OCC | C10H16N2O3
reactant | 3-chloromethyl-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)pyridine | 472 mg | ClCC=1C=NC=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C17H15ClN2O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-ethoxy-1-[5-(5-methyl-2-phenyl-4-oxazolylmethoxy)-3-pyridylmethyl]-1H-pyrazol-4-yl]propionate | 616 mg, yield: 84% | C(C)OC1=NN(C=C1CCC(=O)OCC)CC=1C=NC=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H30N4O5
